US07846960B2
5-Hydroxy-2-propyl-benzoic Acid Methyl Ester
To a −78° C. solution of 5-Methoxy-2-propyl-benzoic acid methyl ester (350 mg, 1.68 mmol) in DCM (18 mL) is added boron tribromide (840 μL, 8.40 mmol, 1.0 M in DCM) dropwise. The reaction mixture is warmed to room temperature overnight. The reaction mixture is quenched by the dropwise addition of MeOH and is stirred at room temperature for 30 min. The reaction is concentrated and the residue is partitioned between EtOAc and water. The aqueous layer is extracted with EtOAc and the combined organic layers are washed with brine, dried (MgSO4), filtered, concentrated, and chromatographed (0% to 20% EtOAc/Hex) to yield the title compound (274 mg, 84%) 1H NMR (400 MHz, CDCl3) δ 7.34 (d, 1H, J=2.6 Hz), 7.11 (d, 1H, J=8.4 Hz), 6.92 (dd, 1H, J=8.4, 3.1 Hz), 6.92 (dd, 1H, J=8.4, 3.1 Hz), 3.88 (s, 3H), 2.87-2.81 (m, 2H), 1.63-1.52 (m, 2H), 0.94 (t, 3H, J=7.3 Hz).

reactant | 5-Methoxy-2-propyl-benzoic acid methyl ester | 1.68 mmol, 350 mg | COC(C1=C(C=CC(=C1)OC)CCC)=O | C12H16O3
reactant | boron tribromide | 8.40 mmol, 1.0 M, 840 μL | B(Br)(Br)Br | BBr3
solvent | DCM | 18 mL | C(Cl)Cl | CH2Cl2
product | 5-Hydroxy-2-propyl-benzoic Acid Methyl Ester | 274 mg, 84% | COC(C1=C(C=CC(=C1)O)CCC)=O | C11H14O3
